US08377923B2
5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid (1.00 g) was suspended in acetonitrile (10 ml), and WSC•monohydrochloride (654 mg) and HOBt (461 mg) were added to thereto, followed by stirring at room temperature for 30 minutes. A mixture of hydrazine monohydrate (1.1 ml) and acetonitrile (10 ml) was ice-cooled and the above reaction solution was added thereto, followed by stirring for 2 hours. The reaction solution was concentrated under reduced pressure and water and saturated aqueous sodium bicarbonate solution were added thereto, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform:methanol=100:1 to 99:5). The resulting solid was washed with diisopropylether to obtain, as a white solid, 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide (817 mg).

reactant | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid | 1.00 g | ClC=1C=CC(=C(C(=O)O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H17ClF3N3O3
reactant | HOBt | 461 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrazine monohydrate | 1.1 ml | O.NN
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide | 817 mg | ClC=1C=CC(=C(C(=O)NN)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H19ClF3N5O2
